US08071600B2
1-hydroxybenzotriazole (0.56 g, 3.7 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (WSC) (0.7 g, 3.7 mmol) and ammonia water (28%, 0.5 ml)) were added to a dichloromethane solution (10 ml) of 2-chlorothiazole-4-carboxylic acid (0.5 g, 3.06 mmol) and the mixture was stirred at room temperature for 46 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extraction solution with ethyl acetate was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:5→ethyl acetate). The purified product was concentrated to dryness under reduced pressure to obtain 2-chlorothiazole-4-carboxamide (475 mg) as white powder.

reactant | 1-hydroxybenzotriazole | 3.7 mmol, 0.56 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.7 mmol, 0.7 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia water | 0.5 ml | O.N
reactant | 2-chlorothiazole-4-carboxylic acid | 3.06 mmol, 0.5 g | ClC=1SC=C(N1)C(=O)O | C4H2ClNO2S
solvent | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-chlorothiazole-4-carboxamide | 475 mg | ClC=1SC=C(N1)C(=O)N | C4H3ClN2OS
